US08629147B2
N-{4-[2-(7-Ethyl-2,7-diaza-spiro[4.4]non-2-yl)-ethyl]-phenyl}-4-fluoro-3-nitro-benzamide from above was dissolved in DMF (15 ml) and the solution was cooled in an ice bath and saturated with ammonia gas for 10 min. The flask was sealed and left at room temperature overnight. The DMF was then evaporated under reduced pressure and the residue partitioned between dichloromethane and 0.1 N KOH. The organic phase was dried over sodium sulfate, filtered and evaporated under reduced pressure. The residue was purified on silica gel using 10% MeOH/CH2Cl2 1% TEA to afford 4-Amino-N-{4-[2-(7-ethyl-2,7-diaza-spiro[4.4]non-2-yl)-ethyl]-phenyl}-3-nitro-benzamide (996 mg) as a yellow foam which was used as is in the next step. 1H NMR (300 MHz, d6-DMSO) δ 10.2 (s, 1H), 8.70 (s, 1H), 7.96 (d, 1H), 7.82 (s, 2H), 7.63 (dd, 2H), 7.24 (dd, 2H), 7.10 (d, 1H), 2.65-2.35 (m, 14H), 1.96 (m, 4H), 1.23 (t, 3H).

reactant | N-{4-[2-(7-Ethyl-2,7-diaza-spiro[4.4]non-2-yl)-ethyl]-phenyl}-4-fluoro-3-nitro-benzamide | C(C)N1CC2(CCN(C2)CCC2=CC=C(C=C2)NC(C2=CC(=C(C=C2)F)[N+](=O)[O-])=O)CC1 | C24H29FN4O3
reactant | ammonia | N | H3N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-Amino-N-{4-[2-(7-ethyl-2,7-diaza-spiro[4.4]non-2-yl)-ethyl]-phenyl}-3-nitro-benzamide | 996 mg | NC1=C(C=C(C(=O)NC2=CC=C(C=C2)CCN2CC3(CC2)CN(CC3)CC)C=C1)[N+](=O)[O-] | C24H31N5O3
